US07977344B2
2-(Tetrahydro-2H-pyran-2-yl)ethanol
To a stirred solution of tetrahydro-2H-pyran-2-ylacetaldehyde (528 mg) in ethanol (5 mL) was added sodium borohydride granules (156 mg). The mixture was heated at 50° C. for 2 h under nitrogen. After cooling, the solvent was evaporated and the residue treated with brine. The mixture was acidified by careful addition of 2N HCl and this mixture was extracted with DCM (×3). The combined organics were washed with brine, dried using a hydrophobic frit and evaporated to give the title compound as a clear oil (465 mg).

reactant | tetrahydro-2H-pyran-2-ylacetaldehyde | 528 mg | O1C(CCCC1)CC=O | C7H12O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(Tetrahydro-2H-pyran-2-yl)ethanol | 465 mg | O1C(CCCC1)CCO | C7H14O2
